US05059609
7-Benzyloxy-3,4-dihydro-4-phenoxy-1-benzoxepin-5(2H)-one
To a solution of 1.4 g of phenol in 50 ml of tetrahydrofuran was added 720 mg of 50% sodium hydride. After stirring for 30 minutes, a solution of 4.5 g of crude 7-benzyloxy-4-bromo-3,4-dihydro-1-benzoxepin-5(2H)-one was added. The reaction was allowed to stir at room temperature for 5 hours. The tetrahydrofuran was evaporated in vacuo, and the residue dissolved in ethyl acetate and washed with water. The ethyl acetate layer was dried over sodium sulfate and evaporated in vacuo to give the crude product which was purified by recrystallization from methanol to give 2 g of title product, m.p. 112°-114° C.

reactant | phenol | 1.4 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydride | 720 mg | [H-].[Na+]
reactant | 7-benzyloxy-4-bromo-3,4-dihydro-1-benzoxepin-5(2H)-one | 4.5 g | C(C1=CC=CC=C1)OC=1C=CC2=C(C(C(CCO2)Br)=O)C1 | C17H15BrO3
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 7-Benzyloxy-3,4-dihydro-4-phenoxy-1-benzoxepin-5(2H)-one | 2 g | C(C1=CC=CC=C1)OC=1C=CC2=C(C(C(CCO2)OC2=CC=CC=C2)=O)C1 | C23H20O4
